US07514461B2
A solution of Br2 (0.540 mL, 10.5 mmol) in hexane (70 mL) was quickly added to the round bottom flask equipped with a CaCl2 drying tube and containing a stirred solution of 2,2,5,7,8-pentamethyl-6-chromanol (2.20 g, 10.0 mmol) in hexane (340 mL). After stirring the reaction mixture for 2 h the solvents were evaporated yielding of 5-bromomethyl-2,2,7,8-tetramethyl-chroman-6-ol as a pale yellow solid (3.0 g), which was immediately used in the next step without further purification. 1H-NMR (300 MHz, CDCl3) δ (ppm): 4.68 (s, 2H), 2.81 (t, J=7, 2H), 2.17 (s, 3H), 2.14 (s, 3H), 1.84 (t, J=7, 2H), 1.32 (s, 6H). MS (ESI-Pos) m/z 219.2 (M−Br+).

reactant | Br2 | 10.5 mmol, 0.540 mL | BrBr | Br2
reactant | 2,2,5,7,8-pentamethyl-6-chromanol | 10.0 mmol, 2.20 g | CC1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C14H20O2
solvent | hexane | 70 mL | CCCCCC | C6H14
solvent | hexane | 340 mL | CCCCCC | C6H14
product | 5-bromomethyl-2,2,7,8-tetramethyl-chroman-6-ol | 3.0 g | BrCC1=C2CCC(OC2=C(C(=C1O)C)C)(C)C | C14H19BrO2
